US03933906
The starting material is prepared as follows: The mixture of 5.6 g of 4-chloro-3-nitro-5-sulfamoylbenzoic acid, 200 ml of water and 9 g of 4-aminoacetanilide is refluxed for four hours while stirring under nitrogen. It is cooled to room temperature and the precipitate formed filtered off, to yield the 4-(4-acetamidophenylamino)-3-nitro-5-sulfamoylbenzoic acid, melting above 275°.

reactant | 4-chloro-3-nitro-5-sulfamoylbenzoic acid | 5.6 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | 4-aminoacetanilide | 9 g | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
solvent | water | 200 ml | O | H2O
product | 4-(4-acetamidophenylamino)-3-nitro-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C15H14N4O7S
